US05180742
A 16.3 ml (26 mmole) of n-butyllithium.hexane solution was added dropwise to 7.02 g (26.0 mmole) of 1-benzyl-2,5-dimethoxy-3,4,6-trimethylbenzene and 4.32 ml (26×1.1 mmole) of 1,1,2,2-tetramethylethylenediamine dissolved in anhydrous tetrahydrofuran (70 ml), under an atmosphere of argon at 50° C. over the period of 10 minutes, followed by stirring at 50° to 56° C. for 20 minutes. Then, a solution of 5.80 g (26 mmole) of 3-bromopropanol.tetrahydropyranyl ether in tetrahydrofuran (30 ml) was added dropwise to the mixed solution over the period of 10 minutes, followed by stirring at 50° C. for further 10 minutes. After ice-cooling, a 10% aqueous phosphoric acid solution was added to make the solution acid, and isopropyl ether was added to conduct extraction. The organic layer was separated out, washed with aqueous saturated sodium chloride solution, dried (magnesium sulfate) and evaporated. The residue was dissolved in methanol (70 ml), and 0.25 g (26×1/20 mmole) of p-toluenesulfonic acid was added to the solution, followed by stirring at 70° C. for 15 minutes. After cooling by standing at room temperature, an aqueous sodium hydrogen-carbonate solution was added for neutralization, and the solvent was evaporated. Isopropyl ether and water were added to the residue to effect extraction, and the isopropyl ether layer was washed with aqueous sodium chloride solution, dried (magnesium sulfate) and evaporated. The residual solution was chromatographed on a silica gel column to effect purification (elution with isopropyl ether) to thereby give 7.00 g (82%) of 4-(2,5-dimethoxy-3,4,6-trimethylphenyl)-4-phenylbutanol. Its typical physical properties and nuclear magnetic resonance spectrum data are shown in Table 14.

reactant | n-butyllithium | 26 mmole, 16.3 ml | C(CCC)[Li]
reactant | 1-benzyl-2,5-dimethoxy-3,4,6-trimethylbenzene | 26.0 mmole, 7.02 g | C(C1=CC=CC=C1)C1=C(C(=C(C(=C1C)OC)C)C)OC | C18H22O2
reactant | 3-bromopropanol | 26 mmole, 5.80 g | BrCCCO | C3H7BrO
reactant | tetrahydropyranyl ether | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | p-toluenesulfonic acid | 20 mmole, 0.25 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | 1,1,2,2-tetramethylethylenediamine | 1.1 mmole, 4.32 ml | CC(C(N)(C)C)(N)C | C6H16N2
solvent | hexane | CCCCCC | C6H14
product | 4-(2,5-dimethoxy-3,4,6-trimethylphenyl)-4-phenylbutanol | 7.00 g, 82% | COC1=C(C(=C(C(=C1C)C)OC)C)C(CCCO)C1=CC=CC=C1 | C21H28O3
